US06689790B2
d) 8-Amino-2-thiophen-2-yl-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic Acid Methyl Ester
A mixture of 1.114 g (6.66 mmol) 5,6-diamino-nicotinic acid methyl ester in 40 ml dioxane was treated with 1.578 g (7.33 mmol) O-mesitylenesulfonylhydroxylamine (prepared from ethyl-o-mesitylenesulfonylacetohydroxamate and HClO4 (70%)) for 1 h at room temperature. 0.897 g (8 mmol) thiophene-2-carboxaldehyde and molecular sieves 4 Å was added and heated to 100° C. for 4 h before addition of 1.6 ml 5M KOH in methanol. The mixture was heated to 70° C. for 2 h and stirred at room temperature for 14 h. The volatiles were removed under reduced pressure and the residue was purified by flash column chromatography on silica eluting with a mixture of ethyl acetate and n-hexane to yield after evaporation 0.88 g (48%) of the title compound.

reactant | 5,6-diamino-nicotinic acid methyl ester | 6.66 mmol, 1.114 g | COC(C1=CN=C(C(=C1)N)N)=O | C7H9N3O2
reactant | O-mesitylenesulfonylhydroxylamine | 7.33 mmol, 1.578 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | thiophene-2-carboxaldehyde | 8 mmol, 0.897 g | S1C(=CC=C1)C=O | C5H4OS
reactant | KOH | 5M, 1.6 ml | [OH-].[K+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 8-Amino-2-thiophen-2-yl-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic Acid Methyl Ester | COC(=O)C=1C=C(C=2N(C1)N=C(N2)C=2SC=CC2)N | C12H10N4O2S
